US07449460B2
Following the procedure of Example 11, a mixture of 150 mg (0.37 mmol) of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-7-fluoroquinoline-3-carbonitrile and 339 mg (2.20 mmol) of 4-(1-pyrrolidinylpiperidine) in 1 mL of 1-methyl 2-pyrrolidinone is heated at 105° C. for 17 hours to yield the crude product. Purification by silica gel chromatography (gradient 98:2 methylene chloride/methanol to 9:1 methylene chloride/methanol) gives 66 mg of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile as a yellow solid, mp 125-130° C.

reactant | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-7-fluoroquinoline-3-carbonitrile | 0.37 mmol, 150 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=CC=C12)F)C#N | C20H13ClFN5S
reactant | 1-methyl 2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 66 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=CC=C12)N1CCC(CC1)N1CCCC1)C#N | C29H30ClN7S
